US09120812B2
170 mg (353.83 μmol) of trifluoromethanesulfonic acid 6-ethyl-8,8-dimethyl-2-(8-oxa-3-azabicyclo[3.2.1]oct-3-yl)-5-oxo-5,6,7,8-tetrahydro-9-oxa-1,3,6-triazabenzocyclohepten-4-yl ester and 90.16 mg (389.21 μmol) of 5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)pyridin-2-ylamine are dissolved in 3 ml of dioxane in a microwave tube. 150.21 mg (707.66 μmol) of tripotassium phosphate and 1 ml of water are added The solution is purged with argon. Finally, 24.84 mg (35.38 μmol) of bis(triphenylphosphine)palladium(II) chloride are added and the mixture is heated in a Biotage microwave machine for 15 minutes at 100° C. The reaction mixture is diluted in ethyl acetate and washed with water and then with saturated NaCl solution. The precipitate present in the organic phase is filtered off to give 120 mg of 4-(6-aminopyridin-3-yl)-6-ethyl-8,8-dimethyl-2-(8-oxa-3-azabicyclo[3.2.1]oct-3-yl)-7,8-dihydro-6H-9-oxa-1,3,6-triazabenzocyclohepten-5-one.

reactant | trifluoromethanesulfonic acid 6-ethyl-8,8-dimethyl-2-(8-oxa-3-azabicyclo[3.2.1]oct-3-yl)-5-oxo-5,6,7,8-tetrahydro-9-oxa-1,3,6-triazabenzocyclohepten-4-yl ester | 353.83 μmol, 170 mg | C(C)N1C(C2=C(OC(C1)(C)C)N=C(N=C2OS(=O)(=O)C(F)(F)F)N2CC1CCC(C2)O1)=O | C18H23F3N4O6S
reactant | 5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)pyridin-2-ylamine | 389.21 μmol, 90.16 mg | CC1(OB(OC1(C)C)C=1C=CC(=NC1)N)C | C11H17BN2O2
reactant | tripotassium phosphate | 707.66 μmol, 150.21 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | water | 1 ml | O | H2O
solvent | dioxane | 3 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | bis(triphenylphosphine)palladium(II) chloride | 35.38 μmol, 24.84 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-(6-aminopyridin-3-yl)-6-ethyl-8,8-dimethyl-2-(8-oxa-3-azabicyclo[3.2.1]oct-3-yl)-7,8-dihydro-6H-9-oxa-1,3,6-triazabenzocyclohepten-5-one | 120 mg | NC1=CC=C(C=N1)C1=NC(=NC=2OC(CN(C(C21)=O)CC)(C)C)N2CC1CCC(C2)O1 | C22H28N6O3
